US04479885
Using 1-(p-n-butoxyphenyl)-4-methyl-1,3-butadiene and fumaronitrile, 3-(p-n-butoxyphenyl)-6-methylphthalonitrile was obtained by the same method as in Example 1. m.p. was 151.5° C.

reactant | 1-(p-n-butoxyphenyl)-4-methyl-1,3-butadiene | C(CCC)OC1=CC=C(C=C1)C=CC=CC | C15H20O
reactant | fumaronitrile | C(\C=C\C#N)#N | C4H2N2
product | 3-(p-n-butoxyphenyl)-6-methylphthalonitrile | C(CCC)OC1=CC=C(C=C1)C1=C(C(C#N)=C(C=C1)C)C#N | C19H18N2O
